US04965270
2-Amino-6-ethoxy-9-(3-hydroxyprop-1-oxy)purine
A mixture of 2-amino-9-(3-benzyloxyprop-1-oxy)-6-ethoxypurine (350 mg, 1.02 mmol), 10% palladium on charcoal (350 mg) and 80% formic acid (10 ml) was stirred at 20° C. under an atmosphere of hydrogen for 45 minutes. The catalyst was removed and the solution was evaporated under reduced pressure. The residue was dissolved in water (10 ml) and heated to boiling. Concentrated aqueous ammonia (1 ml) was then added and the solution heated for 15 minutes and then cooled and evaporated under reduced pressure. Recrystallisation of the residue from water afforded the title compound (145 mg, 56%). IR: υmax (KBr) 3376, 3326, 3205, 1649, 1611, 1581, 1509, 1454, 1402 cm-1. 1H NMR: δH [(CD3)2SO] 1.35 (3H, dd, J=6.9, 7.1 Hz, CH2CH2O), 2.50 (2H, quintet, J=6.3, 6.6 Hz, CH2), 3.56 (2H, dt, J=5.2, 6.3 Hz, CH2OH), 4.35 (2H, t, J=6.6 Hz, CH 2 ON), 4.45 (2H, quartet, J=6.9, 7.1 Hz, OCH2CH3), 4.61 (1H, t, J=5.2 Hz, D2O exchangeable, OH), 6.56 (2H, br.s, D2O exchangeable, NH2), 8.09 (1H, s, H-8). Found: C, 47.16; H, 5.92; N, 27.60%. C10H15N5O3 requires: C, 47.41; H, 5.98; N, 27.65%.

reactant | 2-amino-9-(3-benzyloxyprop-1-oxy)-6-ethoxypurine | 1.02 mmol, 350 mg | NC1=NC(=C2N=CN(C2=N1)OCCCOCC1=CC=CC=C1)OCC | C17H21N5O3
catalyst | palladium on charcoal | 350 mg | [Pd] | Pd
solvent | formic acid | 10 ml | C(=O)O | CH2O2
product | 2-Amino-6-ethoxy-9-(3-hydroxyprop-1-oxy)purine | 145 mg, 56% | NC1=NC(=C2N=CN(C2=N1)OCCCO)OCC | C10H15N5O3
